US09029359B2
(R)—N-(1-(6-amino-5-chloropyrimidin-4-yl)piperidin-3-yl)-2-(3,5-dichlorophenylamino)acetamide
The title compound of Example 140 was prepared in similar manner as described in Example 134 except the key intermediate (R)-tert-butyl 3-((R)-2-(3-chloro-5-fluorophenylamino)-2-cyclopropylacetamido)piperidine-1-carboxylate was replaced with (R)-tert-butyl 3-(2-(3,5-dichlorophenylamino)acetamido)piperidine-1-carboxylate and the 4-amino-6-chloropyrimidine-5-carbonitrile was substituted for 5,6-dichloropyrimidin-4-amine. 1H NMR (300 MHz, CD3OD) δ 7.91 (s, 1H), 6.51-6.63 (m, 1H), 6.34 (d, J=1.51 Hz, 2H), 3.93-4.10 (m, 1H), 3.47-3.57 (m, 3H), 3.20-3.31 (m, 2H), 2.76-3.01 (m, 1H), 1.72-1.85 (m, 2H), 1.54-1.67 (m, 2H). EIMS (m/z): calcd. for C17H19Cl3N6O (M+1H) 431. found 431.

reactant | (R)-tert-butyl 3-((R)-2-(3-chloro-5-fluorophenylamino)-2-cyclopropylacetamido)piperidine-1-carboxylate | ClC=1C=C(C=C(C1)F)N[C@@H](C(=O)N[C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1CC1 | C21H29ClFN3O3
reactant | (R)-tert-butyl 3-(2-(3,5-dichlorophenylamino)acetamido)piperidine-1-carboxylate | ClC=1C=C(C=C(C1)Cl)NCC(=O)N[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C18H25Cl2N3O3
reactant | 4-amino-6-chloropyrimidine-5-carbonitrile | NC1=NC=NC(=C1C#N)Cl | C5H3ClN4
reactant | 5,6-dichloropyrimidin-4-amine | ClC=1C(=NC=NC1Cl)N | C4H3Cl2N3
product | (R)—N-(1-(6-amino-5-chloropyrimidin-4-yl)piperidin-3-yl)-2-(3,5-dichlorophenylamino)acetamide | NC1=C(C(=NC=N1)N1C[C@@H](CCC1)NC(CNC1=CC(=CC(=C1)Cl)Cl)=O)Cl | C17H19Cl3N6O
